US06867205B2
(Procedure 6 in Reaction Scheme I) 6-(2,4-Dichloro-phenyl)-5-methylaminomethyl-2-phenyl-pyrimidin-4-ylamine
Under an atmosphere of argon, 9-BBN (0.348 ml of a 0.5molar solution in hexane, 0.174 mmol) was added to a solution of 4-amino-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidine-5-carbonitrile (60 mg, 0.174 mmol) in THF (1 ml) and stirred for 2.5 h at r.t. Potassium-tert-butylate (20 mg, 0.174 mmol) was added, followed by a drop of Methyl iodide after 10 min. The mixture was stirred overnight, then ethanolamine (11 mg, 0.174 mmol) was added and the mixture was heated to 50° C. for 3 h. After cooling, the mixture was filtered, and the filtrate was evaporated. Purification of the re-dissolved (DMF, 1 ml) residue by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min) gave the title compound, MS: m/e=358.9 (M+H+), (12 mg, 19%) as a foam.

reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | 4-amino-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidine-5-carbonitrile | 0.174 mmol, 60 mg | NC1=NC(=NC(=C1C#N)C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C17H10Cl2N4
reactant | Methyl iodide | CI | CH3I
reactant | ethanolamine | 0.174 mmol, 11 mg | C(O)CN | C2H7NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-(2,4-Dichloro-phenyl)-5-methylaminomethyl-2-phenyl-pyrimidin-4-ylamine | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC(=N1)C1=CC=CC=C1)N)CNC | C18H16Cl2N4
